US08431695B2
Preparation of 5-(2-Benzyl-2H-indazol-6-yl)-7-[4-(3,3-difluoro-pyrrolidin-1-ylmethyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine
Using a procedure similar to that of Example 282, step 2, with 5-(2-benzyl-2H-indazol-6-yl)-7-(4-bromomethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine and 3,3-difluoro-pyrrolidine as starting materials, 6.3 mg (2.4%) of the desired product was isolated. 1H NMR (300 MHz, DMSO-d6) δ 8.80 (s, 1 H), 8.05 (d, 2 H), 8.0 (s, 1 H), 7.90 (d, 1 H), 7.70 (s, 1 H), 7.60-7.40 (m, 7 H), 725 (d, 1 H), 7.20 (s, 1 H), 5.70 (s, 2 H), 3.70 (s, 2 H), 3.2 (m, 2 H), 2.70 (m, 2 H), 2.20 (s, 2 H); ES-MS m/z 536.22 [M+H]+, HPLC RT (min) 2.52.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-(4-bromomethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2=CC=C(C=C2)CBr | C27H21BrN6
reactant | 3,3-difluoro-pyrrolidine | FC1(CNCC1)F | C4H7F2N
product | 5-(2-Benzyl-2H-indazol-6-yl)-7-[4-(3,3-difluoro-pyrrolidin-1-ylmethyl)-phenyl]-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | 6.3 mg, 2.4% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2=CC=C(C=C2)CN2CC(CC2)(F)F | C31H27F2N7
